US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-[3-(methyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 3-bromopropyl methyl ether (0.035 g, 0.229 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0277 g, 41.3%). EI-MS m/z 361 (M+) Rt (1.58 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 3-bromopropyl methyl ether | 0.229 mmol, 0.035 g | COCCCBr | C4H9BrO
product | 4-[cyano(diphenyl)methyl]-1-[3-(methyloxy)propyl]-1-azoniabicyclo[2.2.1]heptane bromide | 0.0277 g, 41.3% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H29N2O.BrH/c1-27-18-8-15-26-16-13-23(20-26,14-17-26)24(19-25,21-9-4-2-5-10-21)22-11-6-3-7-12-22;/h2-7,9-12H,8,13-18,20H2,1H3;1H/q+1;/p-1
